US08431695B2
Preparation of 7-(1-acetylpiperidin-4-yl)-5-(2-benzyl-2H-indazol-6-yl)pyrrolo[2,1-f][1,2,4]triazin-4-amine
To a solution of 5-(2-benzyl-2H-indazol-6-yl)-7-piperidin-4-ylpyrrolo[2,1-f][1,2,4]triazin-4-amine (150 mg, 0.33 mmol) in THF (1.88 mL) was added acetyl chloride (26 μL, 0.36 mmol) and N,N-diisopropylethylamine (170 μL, 0.98 mmol). The reaction was stirred at rt for 17 h. The mixture was partitioned between EtOAc (25 mL) and H2O (25 mL). The layers were separated and the organic phase was washed with H2O (20 mL), brine, dried (Na2SO4) and concentrated. The crude material was purified by ISCO® chromatography using a gradient of 0 to 10% MeOH in EtOAc. The isolated compound was crystallized from EtOAc/hexanes to afford 64 mg (42%) of the desired product. 1H NMR (400 MHz, DMSO-d6) δ 8.54 (s, 1 H), 7.90 (s, 1 H), 7.79 (d, 1 H), 7.58 (s, 1 H), 7.28-7.38 (m, 5 H), 7.13 (dd, 1 H), 6.59 (s, 1 H), 5.64 (s, 2 H), 4.48 (d, 1 H) 3.89 (s, 1 H), 3.32-3.41 (m, 3 H), 3.19 (s, 1 H), 2.67 (d, 1 H), 1.98-2.07 (m, 3 H), 1.66 (d, 1 H), 1.51 (s, 1 H); ES-MS m/z 466.4 [M+H]+, HPLC RT (min) 2.49.

reactant | 5-(2-benzyl-2H-indazol-6-yl)-7-piperidin-4-ylpyrrolo[2,1-f][1,2,4]triazin-4-amine | 0.33 mmol, 150 mg | C(C1=CC=CC=C1)N1N=C2C=C(C=CC2=C1)C=1C=C(N2N=CN=C(C21)N)C2CCNCC2 | C25H25N7
reactant | acetyl chloride | 0.36 mmol, 26 μL | C(C)(=O)Cl | C2H3ClO
reactant | N,N-diisopropylethylamine | 0.98 mmol, 170 μL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | THF | 1.88 mL | C1CCOC1 | C4H8O
product | 7-(1-acetylpiperidin-4-yl)-5-(2-benzyl-2H-indazol-6-yl)pyrrolo[2,1-f][1,2,4]triazin-4-amine | 64 mg, 42% | C(C)(=O)N1CCC(CC1)C1=CC(=C2C(=NC=NN21)N)C=2C=CC1=CN(N=C1C2)CC2=CC=CC=C2 | C27H27N7O
